US04965391
Referring to FIG. 2, the preparation of 1-[12-(m-iodophenyl)-dodecyl]-2-methyl-rac-glycero-3-phosphocholine is described in detail. Isopropylidene glycerol (21.3 g, 161 mmol) was added dropwise into a flame-dried three-necked 200 ml round-bottomed flask containing anhydrous benzene (50 ml) and NaNH2 (6.62 g, 161 mmol) which was equipped with a reflux condenser. The reaction mixture was refluxed under anhydrous conditions for one hour before benzyl chloride (24.0 g, 193 mmol) was slowly added to the hot mixture. The reaction mixture was refluxed overnight. After the reaction mixture had cooled to room temperature, H2O was cautiously added. The benzene layer was removed and washed several times with H2O and dried (MgSO4). The solvent was removed in vacuo to give a dark brown oil which was purified by vacuum distillation to yield pure benzyl ether, rac-1-0-benzyl-2,3-0-isopropylidine glycerol (23.1 g, 79%).

reactant | Isopropylidene glycerol | 161 mmol, 21.3 g | C(C)(C)=C(O)C(O)CO | C6H12O3
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | benzyl chloride | 193 mmol, 24.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | H2O | O | H2O
product | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
